US06528677B1
13.6 g of diisopropylamine were dissolved in 200 ml of THF (tetrahydrofuran) abs. and treated dropwise at −10° with 84 ml of butyl lithium (1.6 molar in hexane). After 15 minutes of stirring at 0° C., a solution of 12 g of 4,4,7,7-tetramethyl-2,3,4,5,6,7-hexahydro-1H-indene-2-carboxylic acid in 40 ml of THF was dropped in. The reaction mixture was stirred for one hour at room temperature, cooled again to 0° C. and treated dropwise with a solution of 26.4 g of pentyl iodide in 30 ml of THF. After stirring for 90 minutes at room temperature, the reaction mixture was poured onto ice/water, acidified with 3N HCl and extracted with ethyl acetate. The organic phase was washed with water, dried over Na2SO4 and evaporated to yield a pale yellow, partially crystalline oil. Flash chromatography (SiO2, hexane/ethyl acetate=6:1) and crystallization from pentane yielded 12.9 g of 4,4,7,7-tetramethyl-2-pentyl-2,3,4,5,6,7-hexahydro-1H-indene-2-carboxylic acid as white crystals, m.p. 57-58° C.

reactant | diisopropylamine | 13.6 g | C(C)(C)NC(C)C | C6H15N
reactant | butyl lithium | 1.6 molar, 84 ml | C(CCC)[Li]
reactant | 4,4,7,7-tetramethyl-2,3,4,5,6,7-hexahydro-1H-indene-2-carboxylic acid | 12 g | CC1(C=2CC(CC2C(CC1)(C)C)C(=O)O)C | C14H22O2
reactant | pentyl iodide | 26.4 g | C(CCCC)I | C5H11I
reactant | HCl | 3N | Cl | ClH
solvent | THF | 200 ml | O1CCCC1 | C4H8O
solvent | THF | 40 ml | O1CCCC1 | C4H8O
solvent | THF | 30 ml | O1CCCC1 | C4H8O
product | 4,4,7,7-tetramethyl-2-pentyl-2,3,4,5,6,7-hexahydro-1H-indene-2-carboxylic acid | 12.9 g | CC1(C=2CC(CC2C(CC1)(C)C)(C(=O)O)CCCCC)C | C19H32O2
